US06908916B2
A. Preparation of N-(2-Amino-ethyl)-2-nitro-benzenesulfonamide
A solution of ethylene diamine (268 mL, 20 equiv) in DCM (400 mL) was added to an ice-cooled solution of o-nitrobenzene sulfonyl chloride (44.4 gm, 0.2 mole) in DCM (200 mL) over 1 hr. Concentration on the rotary evaporator left an oil which was partitioned between DCM and sat. aq. Na2CO3 solution. The aqueous phase was backextracted with DCM and the combined organic phases were dried (Na2SO4). Removal of the solvents followed by silica gel chromatography (step gradient elution with DCM containing 0, 5, 10, 20, 30% MeOH) afforded the title compound as an oil (37.2 gm, 76%). 1H NMR (CDCl3+D2O) δ 2.82 (t, 2H, J=5.1 Hz), 3.10 (t, 2H, J=5.1 Hz), 7.73 (m, 2H), 7.83 (m, 1H), 8.11 (m, 1H); MS: 246 (M+H)+; HPLC Ret Time: 0.39 min (YMC Xterra 3.0×50 mm S7 C18 column, 3 min gradient, 4 mL/min).

reactant | ethylene diamine | 268 mL, 20 equiv | C(CN)N | C2H8N2
reactant | o-nitrobenzene sulfonyl chloride | 0.2 mole, 44.4 gm | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Amino-ethyl)-2-nitro-benzenesulfonamide | 37.2 gm, 76% | NCCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H11N3O4S
